US05786379
(a) Preparation of methyl 2-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]-4-thiophenecarboxylate
In a manner analogous to that of Example 17(a), 800 mg (2.9 mmol) of 3-(1-adamantyl)-4-methoxythiophenol were reacted with 690 mg (2.9 mmol) of methyl 2-bromomethyl-4-thiophenecarboxylate and 700 mg (56%) of the expected methyl ester were recovered in the form of a colorless oil.

reactant | 3-(1-adamantyl)-4-methoxythiophenol | 2.9 mmol, 800 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)S | C17H22OS
reactant | methyl 2-bromomethyl-4-thiophenecarboxylate | 2.9 mmol, 690 mg | BrCC=1SC=C(C1)C(=O)OC | C7H7BrO2S
product | methyl 2-[3-(1-adamantyl)-4-methoxyphenylthiomethyl]-4-thiophenecarboxylate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)SCC=2SC=C(C2)C(=O)OC | C24H28O3S2
